US07863446B2
Preparation of 6-[4-(methylsulfonyl)phenyl]-5-phenyl-4-[4-(2-thienyl carbonyl)piperazin-1-yl]-2-(trifluoromethyl)pyrimidine
To a solution of 6-[4-(methylsulfonyl)phenyl]-5-phenyl-4-piperazin-1-yl-2-(trifluoromethyl)pyrimidine (0.2 g, 0.43 mmol, prepared according to the procedure described in preparation 2) in dimethylformamide (20 ml) was added thiophene-2-carboxylic acid (0.149 g, 0.78 mmol) under stirring at 37° C., and then after 10 minutes EDCI (0.149 g, 0.78 mmol), and HOBt (0.023 g, 0.173 mmol) were added. Further TEA (0.179 ml, 2.9 mmol) was added to the resultant clear solution and it was stirred for 18 hours. Subsequently the reaction mixture was diluted with ethyl acetate (50 ml) and the organic layer was washed successively with water, 10% sodium bi carbonate solution (100 ml), and brine (100 ml) respectively and dried over anhydrous sodium sulphate. Evaporation of the solvent and purification by column chromatography (0.4% MeOH:DCM) gave the title compound (0.12 g, yield 48.6%); m.p. 189-194° C. 1H-NMR (CDCl3) δ: 2.98 (s, 3H), 3.4-3.41 (t, 4H), 3.66-3.68 (t, 4H), 7.02-7.77 (m, 12H). MS m/z: 573.2 (M++1).

reactant | 6-[4-(methylsulfonyl)phenyl]-5-phenyl-4-piperazin-1-yl-2-(trifluoromethyl)pyrimidine | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(=NC(=N1)C(F)(F)F)N1CCNCC1)C1=CC=CC=C1 | C22H21F3N4O2S
reactant | thiophene-2-carboxylic acid | 0.78 mmol, 0.149 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | EDCI | 0.78 mmol, 0.149 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.173 mmol, 0.023 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 6-[4-(methylsulfonyl)phenyl]-5-phenyl-4-[4-(2-thienyl carbonyl)piperazin-1-yl]-2-(trifluoromethyl)pyrimidine | 0.12 g, yield 48.6% | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(=NC(=N1)C(F)(F)F)N1CCN(CC1)C(=O)C=1SC=CC1)C1=CC=CC=C1 | C27H23F3N4O3S2
